US06010981
14. Preparation of 1-(1,1-dimethylethyl)-5-benzyloxy-4-(2-methyl-4-methylsulfonyl-3-(4-methoxyphenyl)benzoyl)pyrazole (Cpd. 72)
Benzyl chloride (1.1 mL) was added with stirring under nitrogen to a mixture of 2.0 g (4.5 mmol) of 1-(1,1-dimethylethyl)-5-hydroxy-4-(2-methyl-4-methylsulfonyl-3-(4-methoxyphenyl)benzoyl)pyrazole and 1.3 g of sodium carbonate in about 20 mL of dry N,N-dimethylformamide and the resulting mixture was allowed to stir overnight. Ethyl acetate was then added and the resulting mixture was washed with water several times, dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure. The residual orange oil was chromatographed on silica eluting with an 80:20 mixture and then a 60:40 mixture of hexane and ethyl acetate. The product fractions were combined and concentrated by evaporation under reduced pressure and dried to obtain 1.73 g (72 percent of theory) of the title compound as a yellow glass.

reactant | Benzyl chloride | 1.1 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 1-(1,1-dimethylethyl)-5-hydroxy-4-(2-methyl-4-methylsulfonyl-3-(4-methoxyphenyl)benzoyl)pyrazole | 4.5 mmol, 2.0 g | CC(C)(C)N1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)OC)C)=O | C23H26N2O5S
reactant | sodium carbonate | 1.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | about 20 mL | CN(C=O)C | C3H7NO
product | 1-(1,1-dimethylethyl)-5-benzyloxy-4-(2-methyl-4-methylsulfonyl-3-(4-methoxyphenyl)benzoyl)pyrazole | CC(C)(C)N1N=CC(=C1OCC1=CC=CC=C1)C(C1=C(C(=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)OC)C)=O | C30H32N2O5S
